US08735424B2
To a 10% aqueous solution of dioxane (0.1 M) was added 4,6-dichloropyridin-2-amine (1.0 equiv.), trimethylboroxine (1.5 equiv.), Pd(PPh3)4 (0.10 equiv.) and K2CO3 (3.0 equiv.). The solution was heated in an oil bath to 120° C. for 18 hrs, cooled to room temperature (not all of starting material was consumed), extracted with EtOAc, dried with Na2SO4, and concentrated. The crude material was purified via SiO2 column chromatography eluting with 5% MeOH/DCM to yield 4-chloro-6-methylpyridin-2-amine as an off-white solid in 23% yield. LCMS (m/z): 143 (MH+); LC Rt=1.11 min.

reactant | 4,6-dichloropyridin-2-amine | 1.0 equiv. | ClC1=CC(=NC(=C1)Cl)N | C5H4Cl2N2
reactant | trimethylboroxine | 1.5 equiv. | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 3.0 equiv. | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.10 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 0.1 M | O1CCOCC1 | C4H8O2
product | 4-chloro-6-methylpyridin-2-amine | 23% yield | ClC1=CC(=NC(=C1)C)N | C6H7ClN2
